US05631259
21 g (0.22 mol) of 2-pyridone are added at 0° C. to a solution of the palladium(0) catalyst prepared as above (2 mol % of palladium(II) acetate) in 200 ml of dry tetrahydrofuran, and 20.1 g (0.245 mol) of epoxycyclopentene, dissolved in 80 ml of tetrahydrofuran, are then added dropwise over a period of 2 hours, while stirring. The solution which forms is stirred at room temperature for 2 days and then concentrated, the residue is dissolved in methylene chloride, the solution is extracted by shaking with 1 A sodium carbonate solution and the organic phase is concentrated. The residue is chromatographed over silica gel using ethyl acetate/methanol 9/1. 7.2 g (18.49% of theory) of 1-[(1RS,4SR)-4-hydroxycyclopent-2-en-1-yl]pyridin-2(1H)-one are obtained as a viscous oil. 1H NMR (60 MHz, d6 -DMSO), δ[ppm]: 7.65-7.25 (m, 2H), 6.55-6.08 (m, 3H), 5.95-5.63 (m, 2H), 5.26 (d, 1H), 4.73 (m, 1H), 2.85 (m, 1H), 1.32 (m, 1H).

reactant | 2-pyridone | 0.22 mol, 21 g | N1C(C=CC=C1)=O | C5H5NO
reactant | epoxycyclopentene | 0.245 mol, 20.1 g | O1C2=C1CCC2 | C5H6O
catalyst | palladium(0) | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-[(1RS,4SR)-4-hydroxycyclopent-2-en-1-yl]pyridin-2(1H)-one | 7.2 g, 18.49% | OC1C=CC(C1)N1C(C=CC=C1)=O | C10H11NO2
